US04239901
100 ml of thionyl chloride are added to 28.51 g (0.1 mole) of 2-[3-chloro-4-(4-chloropyrazol-1-yl)phenyl]propionic acid and heated to the boil for half an hour. The solution is concentrated in a vacuum, and 2-[3-chloro-4-(4-chloropyrazol-1-yl)phenyl]propionic acid chloride is thus obtained. 500 ml of absolute methanol are added; and, again, heating to the boil for half an hour and concentrating are effected, followed by taking up in benzene, washing with water and sodium hydrogen carbonate solution, drying of the organic solution and distilling to produce 26 g (86.9% of theory) of 2-[3-chloro-4-(4-chloropyrazol-1-yl)phenyl]propionic acid methyl ester (b.p. 126° to 127° C./10-2 mm Hg).

reactant | thionyl chloride | 100 ml | S(=O)(Cl)Cl | Cl2OS
reactant | 2-[3-chloro-4-(4-chloropyrazol-1-yl)phenyl]propionic acid | 0.1 mole, 28.51 g | ClC=1C=C(C=CC1N1N=CC(=C1)Cl)C(C(=O)O)C | C12H10Cl2N2O2
reactant | methanol | 500 ml | CO | CH4O
product | 2-[3-chloro-4-(4-chloropyrazol-1-yl)phenyl]propionic acid methyl ester | 26 g, 86.9% | COC(C(C)C1=CC(=C(C=C1)N1N=CC(=C1)Cl)Cl)=O | C13H12Cl2N2O2
